US07855216B2
Step 4: 3-(4-Cyclopropyl-2-fluoro-phenylamino)1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide
A suspension of 3-(4-cyclopropyl-2-fluoro-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (88 mg, 0.25 mmol), O-(2-vinyloxy-ethyl)-hydroxylamine (028 mg, 0.28 mmol), HATU (114 mg, 0.30 mmol) and DIPEA (0.052 ml, 0.30 mmol) in THF (3 ml) was stirred at ambient temperature for 18 hours. On completion of the reaction, the mixture was concentrated in vacuo then re-dissolved in DCM. The solution was washed with saturated aqueous NaHCO3 and brine, dried over magnesium sulphate then concentrated in vacuo. The resultant residue was purified by flash chromatography (Si-PPC, DCM:MeOH, gradient 99:1 to 90:10) to give a yellow solid (34 mg, 33%). LCMS (method B): RT=2.46 min, M+H+=411. 1H NMR (CDCl3): 8.58 (1H, s), 8.41-8.36 (1H, m), 7.30 (1H, d, J=6.08 Hz), 7.26 (1H, d, J=1.99 Hz), 6.87 (1H, dd, J=8.33, 2.02 Hz), 6.47 (1H, dd, J=8.34, 3.82 Hz), 5.85 (1H, s), 4.11 (3H, s), 3.97-3.90 (2H, m), 3.71 (2H, dd, J=5.23, 3.41 Hz), 2.78 (1H, m), 1.22-1.13 (6H, m).

reactant | 3-(4-cyclopropyl-2-fluoro-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid | 0.25 mmol, 88 mg | C1(CC1)C1=CC(=C(C=C1)NC1=C(N(C2=C1C=NC=C2)C)C(=O)O)F | C18H16FN3O2
reactant | O-(2-vinyloxy-ethyl)-hydroxylamine | 0.28 mmol | C(=C)OCCON | C4H9NO2
reactant | HATU | 0.30 mmol, 114 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.30 mmol, 0.052 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 3-(4-Cyclopropyl-2-fluoro-phenylamino)1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide | 34 mg, 33% | C(=C)OCCONC(=O)C1=C(C=2C=NC=CC2N1C)NC1=C(C=C(C=C1)C1CC1)F | C22H23FN4O3
